US08258160B2
Synthesis of N-benzyl-5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxamide
A mixture of N-benzyl-5-cyano-3-methylthiophene-2-carboxamide (0.15 g, 0.59 mmol), phenylacetic hydrazide (0.09 g, 0.59 mmol) and potassium carbonate (0.12 g, 0.87 mmol) in 1-butanol (4 mL) was stirred in a sealed tube at 150° C. for 18 h. The reaction mixture was allowed to cool to ambient temperature and concentrated. The residue was purified by column chromatography (0-70% ethyl acetate in hexanes) to afford the title compound as a light yellow solid (0.10 g, 42%): mp 168-171° C.; 1H NMR (300 MHz, CDCl3) δ 7.40-7.18 (m, 12H), 6.20 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 4.11 (s, 2H), 2.47 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.8, 142.2, 137.8, 135.2, 130.7, 130.6, 129.0, 128.8, 128.8, 127.7, 127.6, 127.4, 44.1, 33.1, 15.9; MS (ES+) m/z 389.3 (M+1).

reactant | N-benzyl-5-cyano-3-methylthiophene-2-carboxamide | 0.59 mmol, 0.15 g | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C#N | C14H12N2OS
reactant | phenylacetic hydrazide | 0.59 mmol, 0.09 g | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | potassium carbonate | 0.87 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | 4 mL | C(CCC)O | C4H10O
product | N-benzyl-5-(5-benzyl-1H-1,2,4-triazol-3-yl)-3-methylthiophene-2-carboxamide | 0.10 g, 42% | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C1=NNC(=N1)CC1=CC=CC=C1 | C22H20N4OS
